US07402672B2
3-(2,4-Dichlorophenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-7
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(2,4-dichlorophenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-7 as an ivory colored solid, mp=266° C., MS Obs 339.2 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(2,4-dichlorophenyl)disulfide | 1.1 equiv | ClC1=C(C=CC(=C1)Cl)SSC1=C(C=C(C=C1)Cl)Cl | C12H6Cl4S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2,4-Dichlorophenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | ClC1=C(C=CC(=C1)Cl)SC1=C(NC=2C1=NC=CC2)C(=O)N | C14H9Cl2N3OS
